US07625930B2
The Synthesis of Diethyl 4-(2,4,6-trimethoxyphenyl)pyridine-2,6-dicarboxylate 12
2,4,6-trimethoxyphenylboronic acid (2.12 g, 10.0 mmol) and diethyl 4-bromopyridine-2,6-dicarboxylate (3.33 g, 11.0 mmol) were dissolved in dry DMF (50 mL). Caesium carbonate (4.56 g, 14.0 mmol) and tetrakis(triphenylphosphine)-palladium(0) (0.23 g, 0.20 mmol) were added, and the mixture was deaerated with argon. The mixture was heated at 95° C. for 48 h. The mixture was allowed to cool to room temperature and filtered. The filtrate was concentrated in vacuo, the residue was dissolved in chloroform (60 mL) and washed with 10% aq. citric acid and water, dried over Na2SO4 and concentrated. Purification was performed on silica gel (eluent petroleum ether bp 40-60° C.; ethyl acetate 5:3→2:5, v/v). Yield was 2.09 g (54%). 1H NMR (CDCl3): δ 1.45 (6H, t, J 7.1); 3.74 (6H, s); 3.90 (3H, s); 4.49 (4H, q, J 7.1); 6.22 (2H, s); 8.28 (2H, s). IR (film)/cm−1 1743, 1610 (C═O); 1339, 1238, 1128 (C—O). ESI-MS: [M+H]+ 390.19 calc. for C20H24NO7+ 390.15.

reactant | 2,4,6-trimethoxyphenylboronic acid | 10.0 mmol, 2.12 g | COC1=C(C(=CC(=C1)OC)OC)B(O)O | C9H13BO5
reactant | diethyl 4-bromopyridine-2,6-dicarboxylate | 11.0 mmol, 3.33 g | BrC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C11H12BrNO4
reactant | Caesium carbonate | 14.0 mmol, 4.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.20 mmol, 0.23 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Diethyl 4-(2,4,6-trimethoxyphenyl)pyridine-2,6-dicarboxylate | COC1=C(C(=CC(=C1)OC)OC)C1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C20H23NO7
